US08536179B2
Added 7-methyl-1-(1-methylethyl)-1H-indole-4-carboxylic acid (52 mg, 0.239 mmol), 3-(aminomethyl)-4,6-dimethyl-2(1H)-pyridinone (56.4 mg, 0.299 mmol), 1-hydroxy-7-azabenzotriazole (65.2 mg, 0.479 mmol), EDC (92 mg, 0.479 mmol) and N-methylmorpholine (0.105 mL, 0.957 mmol) to Dimethyl Sulfoxide (DMSO) (10 mL) and stirred at RT for 16 h. Added 25 ml of water and let stir for 10 minutes. Filtered off solids. Dissolved solids in DCM, washed with water, dried over MgSO4, filtered and concentrated. The residue was purified by column chromatography (Biotage; 0% to 20% gradient MeOH:DCM; 10 g-HP-silica gel column) to give 55 mg of N-[(4,6-Dimethyl-2-oxo-1,2-dihydro-3-pyridinyl)methyl]-7-methyl-1-(1-methylethyl)-1H-indole-4-carboxamide. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.49 (d, 6H), 2.24 (s, 3H), 2.44 (s, 3H), 2.75 (s, 3H), 4.63 (d, J=4.55 Hz, 2H), 5.17 (dt, J=13.20, 6.66 Hz, 1H), 5.97 (s, 1H), 6.91 (d, J=7.58 Hz, 1H), 7.01 (d, J=3.54 Hz, 1H), 7.29 (d, J=3.28 Hz, 1H), 7.39 (d, J=7.33 Hz, 1H), 7.69 (br. s., 1H), 12.59 (br. s., 1H). MS (ES) [M+H]+352.4.

reactant | 7-methyl-1-(1-methylethyl)-1H-indole-4-carboxylic acid | 0.239 mmol, 52 mg | CC1=CC=C(C=2C=CN(C12)C(C)C)C(=O)O | C13H15NO2
reactant | 3-(aminomethyl)-4,6-dimethyl-2(1H)-pyridinone | 0.299 mmol, 56.4 mg | NCC=1C(NC(=CC1C)C)=O | C8H12N2O
reactant | 1-hydroxy-7-azabenzotriazole | 0.479 mmol, 65.2 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | EDC | 0.479 mmol, 92 mg
reactant | N-methylmorpholine | 0.957 mmol, 0.105 mL | CN1CCOCC1 | C5H11NO
solvent | water | 25 ml | O | H2O
solvent | Dimethyl Sulfoxide | 10 mL | CS(=O)C | C2H6OS
product | N-[(4,6-Dimethyl-2-oxo-1,2-dihydro-3-pyridinyl)methyl]-7-methyl-1-(1-methylethyl)-1H-indole-4-carboxamide | 55 mg | CC1=C(C(NC(=C1)C)=O)CNC(=O)C=1C=2C=CN(C2C(=CC1)C)C(C)C | C21H25N3O2
